US04218464
Ammonia was bubbled through a solution of ethyl 2-bromomethyl-3,4-dichlorobenzoate (25 g, 0.08 mol.) in 250 ml. of dimethylformamide for 1/2 hour at 0° C. The mixture was stirred for one hour at 25° C., poured on crushed ice and filtered. The solid was chromatographed on silica gel eluted ether, ethyl acetate and then acetone to give 4,5-di-chloro-2,3-dihydro-1H-isoindol-1-one.

reactant | Ammonia | N | H3N
reactant | ethyl 2-bromomethyl-3,4-dichlorobenzoate | 0.08 mol, 25 g | BrCC1=C(C(=O)OCC)C=CC(=C1Cl)Cl | C10H9BrCl2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,5-di-chloro-2,3-dihydro-1H-isoindol-1-one | ClC1=C2CNC(C2=CC=C1Cl)=O | C8H5Cl2NO
